US05464796
b) 2-Amino-5-chloro-3,4,6-trifluorobenzoic acid
63.9 g (0.25 mol) of 3-chloro-2,4,5-trifluoro-6-nitrobenzoic acid and 15 g of Raney nickel are suspended in 450 ml of ethanol. Hydrogenation is carried out at 10°-15° C. under a hydrogen pressure of 5-10 bar until the uptake of hydrogen has ended. The crude reaction mixture is poured onto 1 l of water. The carboxylic acid which has precipitated is dissolved by addition of 10% strength sodium hydroxide solution. When the catalyst has been filtered off with suction, a pH of 2-3 is established by addition of half-concentrated hydrochloric acid. The precipitate is filtered off with suction, washed with water and dried over KOH in a desiccator.

reactant | 3-chloro-2,4,5-trifluoro-6-nitrobenzoic acid | 0.25 mol, 63.9 g | ClC=1C(=C(C(=O)O)C(=C(C1F)F)[N+](=O)[O-])F | C7HClF3NO4
reactant | hydrogen | [H][H] | H2
reactant | water | 1 l | O | H2O
catalyst | Raney nickel | 15 g | [Ni] | Ni
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 2-Amino-5-chloro-3,4,6-trifluorobenzoic acid | NC1=C(C(=O)O)C(=C(C(=C1F)F)Cl)F | C7H3ClF3NO2
